US04285944
A mixture of 1.83 g. (0.01 mole) 1,3-dimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime and 0.35 ml. (0.011 mole) anhydrous hydrazine (98%) in 25 ml. absolute ethanol is refluxed under nitrogen at a bath temperature of 80° C. for 1 hour. Evaporation of the solvent gives 1,3-dimethyl-2-oxa-bicyclo[2,2,2]octan-5,6-dione-5-oxime-6-hydrazone.

reactant | 1,3-dimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime | 0.01 mole | CC12OC(C(C(C1=O)=NO)CC2)C | C9H13NO3
reactant | hydrazine | 0.011 mole | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1,3-dimethyl-2-oxa-bicyclo[2,2,2]octan-5,6-dione-5-oxime-6-hydrazone | CC12OC(C(C(C1=NN)=NO)CC2)C | C9H15N3O2
